US07265115B2
tert-butyl 9-methyl-3,9-diazabicyclo[4.2.1]nonane-3-carboxylate
9-Methyl-3,9-diazabicyclo[4.2.1]nonane (4.60 g, 33 mmol), prepared as described in (U.S. Pat. No. 2,999,091), in CHCl3 (50 mL) at 0° C., was treated with triethyl amine (6.7 g, 66 mmol) and di-t-butyl dicarbonate (14.4 g, 66 mmol). The mixture was allowed to warm to ambient temperature and stir for 12 hours. The reaction mixture was washed in succession with saturated NaHCO3 and brine. The organic phase was dried (MgSO4) and concentrated under reduced pressure to provide the title compound (99% yield). MS (DCI/NH3) m/z 241 (M+H)+.

reactant | 9-Methyl-3,9-diazabicyclo[4.2.1]nonane | 33 mmol, 4.60 g | CN1C2CNCCC1CC2 | C8H16N2
reactant | triethyl amine | 66 mmol, 6.7 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 66 mmol, 14.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 9-methyl-3,9-diazabicyclo[4.2.1]nonane-3-carboxylate | 99% yield | CN1C2CN(CCC1CC2)C(=O)OC(C)(C)C | C13H24N2O2
